US05328924
A. 3-(3-(6,6,6-Trifluorohexyloxy-1,2,5-thiadiazol-4-yl)-pyridine
To a mixture of sodium hydride (12.8 mmol) and 6,6,6-trifluoro-1-hexanol (3.0 g, 19.2 mmol) in tetrahydrofuran (40 ml) was added 3-(3-chloro-1,2,5-thiadiazol-4-yl)-pyridine (1.3 g, 6.4 mmol). The mixture was refluxed for 36 h and evaporated. After evaporation the residue was dissolved in water then extracted with diethyl ether. The dried organic phases were evaporated and the residue purified by column chromatography (silica gel, eluent: ethyl acetate/hexanes) to yield 630 mg (31%) of the title compound.

reactant | sodium hydride | 12.8 mmol | [H-].[Na+]
reactant | 6,6,6-trifluoro-1-hexanol | 19.2 mmol, 3.0 g | FC(CCCCCO)(F)F | C6H11F3O
reactant | 3-(3-chloro-1,2,5-thiadiazol-4-yl)-pyridine | 6.4 mmol, 1.3 g | ClC1=NSN=C1C=1C=NC=CC1 | C7H4ClN3S
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 3-(6,6,6-Trifluorohexyloxy-1,2,5-thiadiazol-4-yl)-pyridine | 630 mg, 31% | FC(CCCCCOC1=NSN=C1C=1C=NC=CC1)(F)F | C13H14F3N3OS
